US04963587
Into a solution of 0.46 g of methyl N-[2-(4-chlorophenyl)sulfonylaminoindan-5-yl]glycinate dissolved in 20 ml of a mixture of methanol-tetrahydrofuran (1:1) is added 1.22 ml of an aqueous 1 N sodium hydroxide solution, and the mixture is stirred at room temperature overnight, and further at 60° C. for 3 hours. After the reaction, the solvent is evaporated, and the residue is recrystallized from an isopropyl alcohol-water mixture to give 0.37 g of N-[2-(4-chlorophenyl)sulfonylaminoindan-5-yl]glycine sodium salt as colorless crystals.

reactant | methyl N-[2-(4-chlorophenyl)sulfonylaminoindan-5-yl]glycinate | 0.46 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)NCC(=O)OC | C18H19ClN2O4S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol tetrahydrofuran | CO.O1CCCC1
product | N-[2-(4-chlorophenyl)sulfonylaminoindan-5-yl]glycine sodium salt | 0.37 g, Yield: 77% | [Na+].ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)NCC(=O)[O-] | InChI=1S/C17H17ClN2O4S.Na/c18-13-2-5-16(6-3-13)25(23,24)20-15-7-11-1-4-14(8-12(11)9-15)19-10-17(21)22;/h1-6,8,15,19-20H,7,9-10H2,(H,21,22);/q;+1/p-1
